US05648354
3-(Hydroxymethyl)-6-[methyloxy[3-hydroxyquinoxalin-2-yl]]-1,2-dithiin.
To a stirred solution of the 3-[(tert-butyldimethylsilyloxy)methyl]-6-[methyloxy[3-(tert-butyldimethylsilyloxy)quinoxalin-2-yl]]-1,2-dithiin obtained above (50 mg, 0.09 mmol) in 1 mL of THF was added a mixture of 1.2 mL of 1M tetrabutylammonium fluoride in THF and 0.7 mL of acetic acid. The reation mixture was stirred for 3 h until TLC analysis showed the reaction to be complete, and then concentrated in vacuo. The residue was partitioned between 20 mL of water and 30 mL of ethyl acetate. The organic phase was washed with dilute aqueous sodium bicarbonate, water, dried over sodium sulfate, and then evaporated to a small volume. The residue was purified by flash chromatography (ethyl acetate-hexane, 1:1) to yield 15 mg (51.7%) of the title compound. Further purification was accomplished by reverse phase HPLC (acetonitrile:water 1:1, PRP-1 column); 1H-NMR (CD3OD) 5.68 (d, J=8.0, 1 H), 7.47 (m, 2 H), 7.37 (m, 1 H), 6.66 (d, J=5.6, 1 H), 6.42 (d, J=6.0, 1 H), 5.16 (s, 2 H), 4.17 (s, 2 H); MS (EI) 319.1 (M+).

reactant | 3-[(tert-butyldimethylsilyloxy)methyl]-6-[methyloxy[3-(tert-butyldimethylsilyloxy)quinoxalin-2-yl]]-1,2-dithiin | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)C1=NC2=CC=CC(=C2N=C1O[Si](C)(C)C(C)(C)C)OC | C26H40N2O3S2Si2
reactant | tetrabutylammonium fluoride | 1M, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 0.7 mL | C(C)(=O)O | C2H4O2
product | 3-(Hydroxymethyl)-6-[methyloxy[3-hydroxyquinoxalin-2-yl]]-1,2-dithiin | 15 mg, 51.7% | OCC=1SSC(=CC1)C1=NC2=CC=CC(=C2N=C1O)OC | C14H12N2O3S2
